US07790725B2
2,4-Dimethoxyaniline (30 g) was dissolved in benzene (400 mL), and ethyl trifluoroacetoacetate (34 mL) and p-toluenesulfonic acid monohydrate (3.7 g) were added. The mixture was refluxed for 21 hr. The reaction solution was concentrated under reduced pressure, and a saturated a aqueous sodium hydrogen carbonate solution was added to the residue. The mixture was extracted with ethyl acetate. The extract solution washed with saturated brine, dried and concentrated under reduced pressure. 75% Polyphosphoric acid (150 mL) was added to the residue and the mixture was stirred at 130° C. for 2 hr. The reaction solution was poured onto ice, and the mixture was extracted with ethyl acetate. The extract solution washed successively with a saturated a aqueous sodium hydrogen carbonate solution, 1 mol/L hydrochloric acid and saturated brine, dried and concentrated under reduced pressure. Ethanol was added to the residue and the precipitate was filtered off. The filtrate was concentrated under reduced pressure to give 2-trifluoromethyl-4-hydroxy-6,8-dimethoxyquinoline (12 g) as an oil.

reactant | 2,4-Dimethoxyaniline | 30 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | ethyl trifluoroacetoacetate | 34 mL | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | p-toluenesulfonic acid monohydrate | 3.7 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 2-trifluoromethyl-4-hydroxy-6,8-dimethoxyquinoline | 12 g | FC(C1=NC2=C(C=C(C=C2C(=C1)O)OC)OC)(F)F | C12H10F3NO3
